Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
dizziness
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
The patient is a ___ year-old right-handed woman with a
history of compressive right common peroneal neuropathy, left
optic neuritis, migraines and gastric bypass surgery who 
presents
to the ED with acute onset of vertigo.  

She was last normal yesterday evening at 11pm.  She awoke this
morning to her phone ringing at 6am.  Before moving her head, 
she
noted the world was moving around her "like on a carousel."  She
described things moving to the right in waves.  While there were
periods when the movement was less intense, it did not 
completely
subside.  The vertigo was not clearly precipitated by head turns
or position changes.  She did have an "uncomfortable pressure" 
at
the right base of her neck which was throbbing. No change in
hearing. No tinnitus. No recent infections.

She next went to the bathroom, albeit with much difficulty.  She
had to cruise along the furniture and walls.  She had a "loose"
bowel movement, which is not uncommon since her gastric bypass,
and then returned to her room.  The vertigo persisted and caused
her to vomit.  There was no double vision.  No new weakness,
although she does have chronic right leg weakness - see below. 
She did  not think her language was disorted although she was
alone at the time.  She called an ambulance and her BP at home
was recorded as 210/100.  She was taken to ___ where the
vertigo was slightly worse if there was any change.  She has had
a few more episodes of emesis. Her SBPs improved to 150s without
intervention and she was started on IVF. 

Of note, in ___, she was hit by an automatic door
closing in a jail and has had right hip pain ever since.  She 
has
been going to physical therapy at least 2x per week and has had
treatments, including neck manipulation, as recent as this week. 


More remotely, in ___, she developed a sudden onset right
foot drop with painful tingling in the first and second toes. 
She was found to have a common peroneal neuropathy ___nd this improved over months. An EMG confirmed this
diagnosis.  Importantly, however, during her ___ exam, she
also had weakness of bilateral delt 5-, bi 5-, tri 5-, finger
extensors 5-, infraspinatus 4+ and hamstrings 4, prompting an 
MRI
c-spine showing cervical spondylosis.  She was on gabapentin
briefly in the past.   
 
Past Medical History:
- Gastric bypass ___ which resulted in ~140b weight loss 
- bowel herniation ___
- Right foot drop ___ right common peroneal neuropathy, 
diagnosed
in ___ clinic in ___
- cervical spondylosis
- ? lumbar spondylosis because of bilateral hamstring weakness 
in ___
- left frontal white matter T2 hyperintensity seen on MRI ___
- left optic neuritis
- migraines
- HTN - remotely, has not required medication since ___
- thyroid nodule s/p FNA ___
- Foot drop after crossing legs ___
- poor esophageal contractility on manometry
 
Social History:
___
Family History:
Mother died at ___ of severe scoliosis.  Father
died at ___ with aortic aneurysm.  She has two sons, one with
diabetes.  No siblings.  No family members with strokes or
cerebral aneurysms.
 
Physical Exam:
Awake, alert, oriented x 3. Able to relate history without
difficulty. Attentive, able to name ___ backward without
difficulty. Speech is fluent with full sentences, intact
repetition, and intact verbal comprehension. Naming intact.  No
paraphasias.  No dysarthria. Normal prosody. No evidence of
hemineglect. No left-right confusion.  Able to follow both
midline and appendicular commands.

- Cranial Nerves - PERRL 4->2 brisk. VF full to finger wiggle.
Three evaluations of eye movements were done. At first there was
right beating nystagmus on primary gaze and right beating
nystagmus on right gaze, left gaze and upgaze, but not downgaze. 

Nystagmus was most coarse on right gaze.  Five minutes later, 
EOM
were reassessed and there was left beating nystagmus on primary
gaze and in R, L and up gazes.  Again this was repeated, and
switched back to right beating, but same profile as above. ?
periodic alternating nystagmus.  V1-V3 without deficits to light
touch bilaterally. No facial movement asymmetry. Hearing intact
to finger rub bilaterally.  Palate elevation symmetric.
SCM/Trapezius strength ___ bilaterally. Tongue midline.

- Motor - Decreased EBD bulk bilaterally.  Normal tone. There is
cupping of right hand, but no pronation or drift. No tremor or
asterixis.
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___
L  5    ___   ___  5   5    5  5     5     5
R  5*   5   5*  ___  4+ 4*  5    4+ 5-    5     5
* Pain limited, but at best effort this is the number listed. 
^ Eversion and inversion was ___ bilaterally.  

- Sensory - There is slight loss to pin in the right lateral 
foot
margin (sural distribution).  Otherwise no deficits to light
touch, pin, bilaterally.  Position sense at great toes intact. 
No exinction to DSS.

-DTRs:
  Bi Tri ___ Pat Ach
L  2  2    2    2   tr
R  2  2    2    2   tr
Plantar response flexor bilaterally.

- Coordination - No dysmetria with finger to nose testing
bilaterally. No overshoot on mirroring task.  No rebound or lag. 

Good speed and intact cadence with rapid alternating movements. 

- Gait - No truncal ataxia. Negative Romberg.  Stance is 
slightly
wide based, but she is leaning on furniture to keep her 
bearings.
Gait not able to assess.  

Reexamination 1 hour later at 3pm: no nystagmus, Head thrust
negative, gait normal. Still with weakness as described above.

Discharge Exam:

No nystagmus noted at time of discharge. Gait is steady, but 
cautious. There is slight weakness of right foot eversion. Exam 
is otherwise unremarkable.
 
Pertinent Results:
___ 12:11PM URINE  HOURS-RANDOM
___ 12:11PM URINE  HOURS-RANDOM
___ 12:11PM URINE  GR HOLD-HOLD
___ 12:11PM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG oxycodn-NEG mthdone-NEG
___ 12:11PM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 12:11PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-TR 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.5 
LEUK-MOD
___ 12:11PM URINE  RBC-2 WBC-1 BACTERIA-NONE YEAST-NONE 
EPI-1
___ 12:11PM URINE  MUCOUS-RARE
___ 11:13AM   LACTATE-2.0
___ 11:09AM   GLUCOSE-157* UREA N-14 CREAT-0.7 SODIUM-142 
POTASSIUM-3.6 CHLORIDE-108 TOTAL CO2-25 ANION GAP-13
___ 11:09AM   estGFR-Using this
___ 11:09AM   cTropnT-<0.01
___ 11:09AM   CALCIUM-9.0 PHOSPHATE-2.4* MAGNESIUM-1.7
___ 11:09AM   WBC-6.0 RBC-4.12 HGB-11.3 HCT-36.7 MCV-89 
MCH-27.4 MCHC-30.8* RDW-13.4 RDWSD-43.5
___ 11:09AM   NEUTS-74.2* ___ MONOS-4.3* EOS-0.3* 
BASOS-0.3 IM ___ AbsNeut-4.48 AbsLymp-1.23 AbsMono-0.26 
AbsEos-0.02* AbsBaso-0.02
___ 11:09AM   PLT COUNT-161
___ 11:09AM   ___ PTT-28.3 ___

MRI ___ Preliminary report:
INDICATION: ___ year old obese woman with prior HTN (resolved 
with gastric 
bypass) p/w 6 hours of vertigo and periodic alternating 
nystagmus concerning 
for central localization, ? brainstem // eval for acute stroke, 
please 
include thin cuts through the brainstem 
  
TECHNIQUE: Sagittal T1 weighted imaging was performed. Axial 
imaging was 
performed with gradient echo, FLAIR, diffusion, and T2 technique 
were then 
obtained. Axial FIESTA was also obtained through the brainstem. 
  
COMPARISON CTA head and neck ___ 
___ 
CT head ___ 
  
FINDINGS:  
  
There is no evidence of hemorrhage, edema, masses, mass effect, 
midline shift 
or infarction. The ventricles and sulci are normal in caliber 
and 
configuration. Scattered foci of T2/FLAIR hyperintensities in 
the 
periventricular and subcortical white matter have progressed 
from the prior 
examination on ___ and are nonspecific, but may 
represent the 
sequela of chronic small vessel ischemic disease. 
  
The paranasal sinuses and mastoid air cells are clear. The 
orbits are 
unremarkable. 
  
IMPRESSION: 
  
  
1. No acute infarction or acute intracranial abnormality. 
2. Progressive, probable sequela of chronic small vessel 
ischemic disease. 

 
Brief Hospital Course:
Admitted to the stroke neurology service overnight for 
observation and MRI. MRI negative for acute stroke, notable only 
for scattered white matter FLAIR hyperntensities likely related 
to known history of migraines. Symptoms largely resolved by 
morning following admission aside from some slight "head 
floating sensation" upon standing. Presentation most consistent 
with vertiginous migraine. Discharged with Zofran and ibuprofen 
for abortive migraine treatment and will arrange follow up in 
neurology clinic. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Cyanocobalamin 1000 mcg PO DAILY 
2. Calcium Carbonate Dose is Unknown  PO Frequency is Unknown 
3. Ferrous Sulfate Dose is Unknown  PO Frequency is Unknown 
4. Ibuprofen Dose is Unknown  PO Q8H:PRN pain 
5. Vitamin D Dose is Unknown  PO DAILY 

 
Discharge Medications:
1. Calcium Carbonate 500 mg PO BID 
2. Cyanocobalamin 1000 mcg PO DAILY 
3. Vitamin D 800 UNIT PO DAILY 
4. Ferrous Sulfate 325 mg PO DAILY 
5. Ibuprofen 400-600 mg PO Q8H:PRN pain 
6. Ondansetron 4 mg PO Q8H:PRN nausea 
RX *ondansetron 4 mg 1 tablet(s) by mouth q8hrs Disp #*15 Tablet 
Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Vertiginous Migraine

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the neurology service at ___ due to your 
symptoms of dizziness with nausea and vomiting. You had an MRI 
of your brain performed which did not show any signs of stroke 
or other concerning problems. We think that your dizziness was 
caused by a migraine.

We have given you a prescription for an anti-nausea medication, 
called ONDANSETRON. If you have another episodes of these 
symptoms, you should take this medication with some ibuprofen, 
which should help alleviate your symptoms. 
 
Followup Instructions:
___